US05034417
A solution of 3-(2,4-difluorophenylthio)-4-nitrobenzoic acid (1.2 g) in 20% hydrogen chloride in ethanol (3 ml) was refluxed for 2 hours. The mixture was concentrated. The residue was dissolved in ethyl acetate and washed with an aqueous solution of sodium bicarbonate and water successively. The extract was evaporated and the residual oil was crystallized from a mixture of hexane and ethanol to give crystals of ethyl 3-(2,4-difluorophenylthio)-4-nitrobenzoate (1.1 g).

reactant | 3-(2,4-difluorophenylthio)-4-nitrobenzoic acid | 1.2 g | FC1=C(C=CC(=C1)F)SC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C13H7F2NO4S
reactant | ethanol | 3 ml | C(C)O | C2H6O
solvent | hydrogen chloride | Cl | ClH
product | ethyl 3-(2,4-difluorophenylthio)-4-nitrobenzoate | 1.1 g | FC1=C(C=CC(=C1)F)SC=1C=C(C(=O)OCC)C=CC1[N+](=O)[O-] | C15H11F2NO4S
